US06919351B2
N-[2-(1H-Indol-3-yl)ethyl]8-hydroxyquinoline-7-carboxamide
A mixture of 8-hydroxyquinoline-7-carboxylic acid (0.23 g, 1.25 mmol), 2-(1H-Indol-3-yl)ethylamine (0.20 g, 1.25 mmol), 1-hydroxybenzotriazole (0.18 g, 1.37 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.26 g, 1.37 mmol), and triethylamine (0.7 mL, 4.99 mmol) in DMF (12 mL) was stirred at room temp overnight. The reaction mixture was concentrated under vacuum. The residue was dissolved in DMSO and subjected to HPLC purification on C-18 stationary phase eluted with water/acetonitrile/TFA mobile phase. Collection and lyophilization of appropriate fractions provide the title compound as yellow solid.

reactant | 8-hydroxyquinoline-7-carboxylic acid | 1.25 mmol, 0.23 g | OC=1C(=CC=C2C=CC=NC12)C(=O)O | C10H7NO3
reactant | 2-(1H-Indol-3-yl)ethylamine | 1.25 mmol, 0.20 g | N1C=C(C2=CC=CC=C12)CCN | C10H12N2
reactant | 1-hydroxybenzotriazole | 1.37 mmol, 0.18 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.37 mmol, 0.26 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 4.99 mmol, 0.7 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | N-[2-(1H-Indol-3-yl)ethyl]8-hydroxyquinoline-7-carboxamide | N1C=C(C2=CC=CC=C12)CCNC(=O)C1=CC=C2C=CC=NC2=C1O | C20H17N3O2
